US07049310B2
c) 7-Methoxy-1-methyl-3-(methylaminomethyl)-1H-indole
According to the procedure of Preparation 13(c), except substituting 7-methoxy-1-methyl-1H-indole-3-carboxaldehyde for the 1,3-dimethyl-1H-indole-2-carboxaldehyde, the title compound (1.6 g, 94%) was obtained as an amber oil: MS (ES) m/e 205.2 (M+H)+.

reactant | 7-methoxy-1-methyl-1H-indole-3-carboxaldehyde | COC=1C=CC=C2C(=CN(C12)C)C=O | C11H11NO2
reactant | 1,3-dimethyl-1H-indole-2-carboxaldehyde | CN1C(=C(C2=CC=CC=C12)C)C=O | C11H11NO
product | 7-Methoxy-1-methyl-3-(methylaminomethyl)-1H-indole | 1.6 g, 94% | COC=1C=CC=C2C(=CN(C12)C)CNC | C12H16N2O
